US20010014690A1
N-(Pyridin-4-yl)-[1-(4-aminobenzyl)indol-3-yl]glyoxylamide (D-68838)
A mixture of 200 mg of Raney nickel in 50 ml of dioxane is treated with a suspension of 320 mg (0.8 mmol) of N-(pyridin-4-yl)-[1-(4-nitrobenzyl)indol-3-yl]glyoxylamide in a solvent mixture of 150 ml of dioxane and 20 ml of isopropanol. Hydrogen is passed into this suspension with shaking at a gas pressure of 5 bar and the temperature is kept at 30-35° C. After about 3 hours, a further 400 mg of Raney nickel are added and the hydrogenation is continued at 35° C. and 5 bar for a further 8 hours with vigorous shaking. The catalyst is filtered off under an N2 atmosphere, the filtrate is concentrated to dryness in vacuo and the residue is dried in vacuo at 40° C.

reactant | N-(pyridin-4-yl)-[1-(4-nitrobenzyl)indol-3-yl]glyoxylamide | 0.8 mmol, 320 mg | N1=CC=C(C=C1)NC(C(=O)C1=CN(C2=CC=CC=C12)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C22H16N4O4
reactant | isopropanol | 20 ml | C(C)(C)O | C3H8O
reactant | Hydrogen | [H][H] | H2
catalyst | Raney nickel | 200 mg | [Ni] | Ni
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
catalyst | Raney nickel | 400 mg | [Ni] | Ni
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | N-(Pyridin-4-yl)-[1-(4-aminobenzyl)indol-3-yl]glyoxylamide | N1=CC=C(C=C1)NC(C(=O)C1=CN(C2=CC=CC=C12)CC1=CC=C(C=C1)N)=O | C22H18N4O2
